US06958145B2
3-Decyl-4-oxo-2-pentenoic acid
Prepared from glyoxylic acid (4.94 g, 6.5 mmol), 2-tridecanone (12.9 g, 6.5 mmol) and orthophosphoric acid (20 ml). 1H n.m.r. δ (CDCl3) 0.87, t J 7.2 Hz, 3H, CH3; 1.30, m, 16H, CH2; 2.39, s, 3H, CH3; 2.77, t J 7.0 Hz, 2H, CH2; 6.50, s, CH.

reactant | glyoxylic acid | 6.5 mmol, 4.94 g | C(C=O)(=O)O | C2H2O3
reactant | 2-tridecanone | 6.5 mmol, 12.9 g | CC(CCCCCCCCCCC)=O | C13H26O
solvent | orthophosphoric acid | 20 ml | P(O)(O)(O)=O | H3O4P
product | 3-Decyl-4-oxo-2-pentenoic acid | C(CCCCCCCCC)C(=CC(=O)O)C(C)=O | C15H26O3
